US09233979B2
(R)-1-(1-(4-Fluorophenyl)ethyl)-3-(3-(methylamino)-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)urea (404 mg, 0.708 mmol) and triethylsilane (0.170 mL, 1.062 mmol) were stirred in TFA (5 mL) at room temperature for 30 min. The solvent was removed in vacuo, saturated NaHCO3 was added, and the products extracted into EtOAc (×2). The combined organic extracts were washed with brine, dried over Na2SO4, filtered through Celite, and concentrated in vacuo. Purification of the residue by flash chromatography (0-15% MeOH-EtOAc) gave 1-[(1R)-1-(4-fluorophenyl)ethyl]-3-[3-(methylamino)-1H-pyrazolo[4,3-c]pyridin-6-yl]urea. MS ESI calc'd. For C16H17FN6O [M+1]+ 329. found 329. 1H NMR (500 MHz, DMSO-d6) δ 11.48 (s, 1H), 8.86 (s, 1H), 8.54 (s, 1H), 8.05 (br s, 1H), 7.36 (dd, J=8.5, 5.5 Hz, 2H), 7.24 (s, 1H), 7.14 (t, J=9.0 Hz, 2H), 6.25 (q, J=5.0 Hz, 1H), 4.88-4.83 (m, 1H), 2.81 (d, J=5.0 Hz, 3H), 1.38 (d, J=6.5 Hz, 3H).

reactant | (R)-1-(1-(4-Fluorophenyl)ethyl)-3-(3-(methylamino)-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)urea | 0.708 mmol, 404 mg | FC1=CC=C(C=C1)[C@@H](C)NC(=O)NC1=CC2=C(C=N1)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)NC | C35H31FN6O
reactant | triethylsilane | 1.062 mmol, 0.170 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 1-[(1R)-1-(4-fluorophenyl)ethyl]-3-[3-(methylamino)-1H-pyrazolo[4,3-c]pyridin-6-yl]urea | FC1=CC=C(C=C1)[C@@H](C)NC(=O)NC1=CC2=C(C=N1)C(=NN2)NC | C16H17FN6O
